US04766115
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and 1-octanol there is obtained octyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resinous product, 1H-NMR(CDCl3): 0.88 (t, CH3), 1.0-2.0 (12H), 4.15 (t, OCH2), 4.23 (s, 4H), 4.87 (broad s, NH), 7.3-7.7 (8H);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | 1-octanol | C(CCCCCCC)O | C8H18O
product | octyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCCCCCCC)=N | C23H30N2O
